US04044015
A. 2-(4-methoxyphenyl)imidazo[1,2-a]pyridine
A mixture of 25.2 g. of sodium bicarbonate, 12.3 g. of 2-aminopyridine and 30 g. of α-bromo-p-methoxyacetophenone in 100 ml. of water and 550 ml. of absolute ethanol is heated at reflux temperatures for 1.5 hrs. The reaction mixture is concentrated under reduced pressure to a yellow solid, which is partitioned between chloroform and water. The organic layer is separated, dried over sodium sulfate. Removal of the chloroform in vacuo leaves the crude intermediate as a yellow solid. Recrystallization from ethanol-water give 15.2 g. of the desired material, m.p. 131°-134° C.

reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | α-bromo-p-methoxyacetophenone | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-methoxyphenyl)imidazo[1,2-a]pyridine | COC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1 | C14H12N2O
